2106-05-21 09:13:00 Physician Attending Progress Note
Chief Complaint: bleeding fisutal, HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo man with cryptogenic cirrhosis, ESRD on HD.  came for bleeding
   from fistual site.  Was admitted for bleeding fistual on [**5-19**]. In ED
   had not active bleeding, but noted to have postive blood cx from prior
   admission.  Remarked that he was feeling bad, admitted to floor.  BP
   was 60/d on lower extremity.  Was mentating well and asymptomatic.
   Midodrine was restarted and got 1L IVF, with no improvement.
   24 Hour Events:
 EKG - At [**2106-5-21**] 05:37 AM
 DIALYSIS CATHETER - START [**2106-5-21**] 05:38 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   vanco
   midodrine
   cholestyramine
   rifaxamin
   omeprazole
   Changes to medical and family history:
   PMHX:
   h/o PE
   MGUS
   left thryoid nodule
   multiple surgeries
   FHx: Noncontributory for bleeding
   SHx: no alchohol
   lives alone, has a partner [**Name (NI) 160**] [**Last Name (NamePattern1) 14607**] is HCP
   Meds:
   loperamide
   cholestyramine
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-5-21**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 106 (106 - 114) bpm
   BP: 89/50(58) {83/45(54) - 102/50(59)} mmHg
   RR: 10 (10 - 14) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: AV fistula not oozing
   Skin:  Cool, No(t) Rash: , No(t) Jaundice, sacral ulcer
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   110
   153
   3.3
   29
   3.2
   14
   99
   136
   41.5
   11.8
        [image002.jpg]
   Microbiology: [**5-19**] GPCs in chains, [**2-6**] sets from PIC line
   peripheral stick is negative
   2 sets next day that are thus far negative
   Assessment and Plan
   HOTN:  MS is at baseline, so he is probably close to baseline in a
   gentlemen who likley runs low, and has difficulty measuring BP due to
   vasculopathy
   GPC bactermia:  has h/o VRE so will treat with linezolid.  Cx was drawn
   from a PIC line, and peripheral cultures were negative, so unclear if
   this was
   just a colonized PIC line.  However reasonable to treat given ? of
   HOTN.
   tachycardia:  largely sinus
   leukocytosis:  trending down.  can also check C. diff in setting of
   chronic diarrhea and recent antibiotics.
   bleeding fistula:  to have fistulagram
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Dialysis Catheter - [**2106-5-21**] 05:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2106-05-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Blood cx growing Enterococcus, no sensis yet; PICC tip with no growth
   (final).
   - Changed to daptomycin given h/o VRE
   - IR performed fistulogram  =  normal
   - Renal plan is for HD today
   - Wound care consult recs entered, lidocaine gel to wound
   - Gentle 250cc bolus given BP 80's when awake (although mentating)
   - 7 beat run of VT (ASX)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2106-5-22**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.4
   HR: 101 (99 - 111) bpm
   BP: 88/48(57) {66/27(41) - 118/70(77)} mmHg
   RR: 12 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    730 mL
                                                                    200 mL
   PO:
                                                                    430 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General: Cachectic male, tired but alert, oriented x 3, no acute
   distress
   HEENT: Sclera slightly icteric, MM dry, + oral thrush, oropharynx
   clear
   Neck: Supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally with faint crackles at bases,
   no wheezes or rhonchi
   CV: Irregular rhythm with mild tachycardia, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, distended with +ascites. Nontender. Bowel sounds
   present, no rebound tenderness or guarding.
   Ext: Cool to touch. Dopplerable pulses, 3+ edema to upper thigh, no
   clubbing, cyanosis. RUE AV fistula with palpable thrill; no bleeding
   and bandaid C/D/I.
   Neuro: Oriented x 3.
   Skin: Dry, cracked skin throughout. No stigmata of endocarditis
   appreciated.
   Labs / Radiology
   105 K/uL
   12.9 g/dL
   131 mg/dL
   4.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   22 mg/dL
   100 mEq/L
   141 mEq/L
   43.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
   WBC
   13.0
   Hct
   43.6
   Plt
   105
   Cr
   4.7
   Glucose
   131
   Other labs: PT / PTT / INR:19.8/36.6/1.8, Lactic Acid:5.4 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   74M with cryptogenic cirrhosis and ESRD on HD admitted with bleeding
   fistula and bacteremia with hypotension on floor.
   # Hypotension: Pt has chronically low BP with SBP 60s-70s UEs and
   100s-120s LEs but BP on arrival to floor 60/D in LUE and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/L. In
   retrospect, this may have been a false measurement as pt mentating at
   baseline throughout and LE BPs here now measured back at baseline.
   Unlikely that midodrine would effect a change so quickly. Pt is s/p 1L
   IV fluids so could have had a component of hypovolemia from increased
   fluid removal at HD and/or blood loss from fistula. Differential
   however does include sepsis from bacteremia given known positive blood
   cx. AM cortisol previously checked [**5-/2106**] and was WNL at 22.
   - closely follow BPs in UEs and [**Name Prefix (Prefixes) **]
   - [**Last Name (Prefixes) **] need small IV boluses to maintain goal SBP >70 in UE, >90 in LE
   - no pressors needed
   - cont midodrine for now
   - trend lactate to assess end organ perfusion: currently elevated to
   5.4 but in setting of Cr elevation; will repeat
   - follow up surveillance cx and speciation of GPCs
   - daptomycin as below
   # Bacteremia: Pt afebrile with mild leukocytosis (no left-shift). GPCs
   in chains growing from [**5-19**] blood cx now proven to be enterococcus (no
   sensitivities). PICC tip cx no growth (final). No other localizing s/s
   infection aside from sacral/perineal skin break down. No murmur or
   stigmata of endocarditis appreciated.
   - daptomycin given after HD, day 1 = [**5-21**]
   - F/U blood cx
   - Depending on micro data, ordered for TTE
   # R AV fistula bleeding: Pt now presenting with second episode of
   bleeding from AV fistula in last 2 HD sessions. He was seen by
   transplant surgery in ED and they felt bleeding had resolved however
   will likely need some intervention or plan since pt cannot be referred
   to ED and admitted each HD session.
   - continue to monitor
   - repeat HCT, am coags
   - type and screen
   - appreciate transplant surgery recommendations
   - fistulogram reportedly normal
   # Tachycardia: C/w baseline HR in 110s.  Difficult to assess if afib
   given poor baseline; not noted in PMH.
   - Monitor on tele, repeat EKG
   # Leukocytosis: Likely related to bacteremia. Has trended down from
   yesterday, possibly since PICC line removed. Pt does have chronic
   diarrhea but C. diff is on differential.
   - trend
   - C. diff negative X1
   - cont vanc as above
   # Sacral decubitus ulcer: Currently does not appear infected.
   - lidocaine jelly
   - f/u any new wound consult recommendations
   # Oral candidiasis: Concerning for immunocompromised state given HIV
   risk factors but has reportedly refused testing in past
   - nystatin swish and swallow
   # ESRD: On HD T,TH, Sat.
   - Continue nephrocaps.
   - f/u renal recs
   # Cryptogenic cirrhosis: Stable. Continue rifaximin.
   # Thrombocytopenia: Elevated from baseline
   .
   # Chronic diarrhea: Pt has chronic diarrhea but given concern for C
   diff will hold loperamide until ruled out C diff again, continue
   cholesytramine
   - c. diff negative X1
   - Restart loperamide given negative c diff
   .
   # FEN: No IVF, low Na, K diet
   # Prophylaxis:
   -DVT ppx with pneumoboots given bleed
   -Bowel regimen held given diarrhea
   -Pain management with tylenol
   # Access: PIV
   # Code: Confirmed full
   # Communication: Patient
   # Emergency Contact:  HCP [**Name (NI) **] [**Name (NI) 14607**] (partner) [**Telephone/Fax (1) 14608**]
   # Disposition: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Dialysis Catheter - [**2106-5-21**] 05:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-22 09:48:00 Physician Attending Progress Note
Chief Complaint: Bleeding fistula, Hypotension septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling well this AM
   24 Hour Events:
   Lactate 5.4
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-5-22**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.4
   HR: 104 (99 - 111) bpm
   BP: 79/50(56) {77/27(41) - 118/70(77)} mmHg
   RR: 11 (0 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    730 mL
                                                                    200 mL
   PO:
                                                                    430 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), bruit over R arm fistula
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   12.9 g/dL
   105 K/uL
   131 mg/dL
   4.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   22 mg/dL
   100 mEq/L
   141 mEq/L
   43.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
   WBC
   13.0
   Hct
   43.6
   Plt
   105
   Cr
   4.7
   Glucose
   131
   Other labs: PT / PTT / INR:19.8/36.6/1.8, Lactic Acid:5.4 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   Septic Shock/Enterococcus bacteremia:  Treating with daptomycin with
   HD.
   Sinus tach: Cont to follow - no acute interventation. appears to be at
   baseline
   bleeding fistula:  fistulagram unrevealing
   Remainder of issue per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Dialysis Catheter - [**2106-5-21**] 05:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2106-05-23 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2106-5-22**] 04:15 PM
   [**2106-5-21**]
   - Blood cx growing Enterococcus, no sensis yet
   - Changed to daptomycin given h/o VRE
   - IR performed fistulogram  =  normal
   - Renal plan is for HD tomorrow
   - Wound care consult recs entered, lidocaine gel to wound
   - Gentle 250cc bolus given BP 80's when awake (although mentating)
   - 7 beat run of VT (ASX)
   [**2106-5-22**]:
   - sensitivities returned on enterococcus --> pan sensitive!!  Can
   consider switching antibiotics to ampicillin.
   - patient with sinus arrhythmia, occasional PVCs.  Difficult stick to
   obtain labs - low mag/phos.  repleted.
   - called out but did not get bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 100 (99 - 120) bpm
   BP: 73/39(47) {53/32(37) - 103/69(76)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                  1,800 mL
                                                                    120 mL
   PO:
                                                                  1,600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    725 mL
   Urine:
   NG:
   Stool:
   725 mL
   Drains:
   Balance:
                                                                  1,800 mL
                                                                   -605 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General: Cachectic male, tired but alert, oriented x 3, no acute
   distress
   HEENT: Sclera slightly icteric, MM dry, + oral thrush, oropharynx
   clear
   Neck: Supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally with faint crackles at bases,
   no wheezes or rhonchi
   CV: Irregular rhythm with mild tachycardia, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, distended with +ascites. Nontender. Bowel sounds
   present, no rebound tenderness or guarding.
   Ext: Cool to touch. Dopplerable pulses, 3+ edema to upper thigh, no
   clubbing, cyanosis. RUE AV fistula with palpable thrill; no bleeding
   and bandaid C/D/I.
   Neuro: Oriented x 3.
   Skin: Dry, cracked skin throughout. No stigmata of endocarditis
   appreciated.
   Labs / Radiology
   81 K/uL
   11.8 g/dL
   126 mg/dL
   3.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   102 mEq/L
   142 mEq/L
   37.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
                             [**2106-5-22**]  07:11 PM
                             [**2106-5-23**]  01:25 AM
   WBC
   13.0
   11.3
   Hct
   43.6
   37.8
   Plt
   105
   81
   Cr
   4.7
   3.1
   3.4
   Glucose
   131
   98
   126
   Other labs: PT / PTT / INR:21.9/38.6/2.0, Lactic Acid:4.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74M with cryptogenic cirrhosis and ESRD on HD admitted with bleeding
   fistula and bacteremia with hypotension on floor.
   # Hypotension: Pt has chronically low BP with SBP 60s-70s UEs and
   100s-120s LEs but BP on arrival to floor 60/D in LUE and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/L. In
   retrospect, this may have been a false measurement as pt mentating at
   baseline throughout and LE BPs here now measured back at baseline.
   Unlikely that midodrine would effect a change so quickly. Pt is s/p 1L
   IV fluids so could have had a component of hypovolemia from increased
   fluid removal at HD and/or blood loss from fistula. Differential
   however does include sepsis from bacteremia given known positive blood
   cx, now speciated to sensitive entertococcus. AM cortisol previously
   checked [**5-/2106**] and was WNL at 22.
   - closely follow BPs in UEs and [**Name Prefix (Prefixes) **]
   - [**Last Name (Prefixes) **] need small IV boluses to maintain goal SBP >70 in UE, >90 in LE
   - no pressors needed
   - cont midodrine for now
   - trend lactate to assess end organ perfusion: currently elevated to
   4.7 but in setting of Cr elevation; will repeat again this morning
   - change Abx as below
   # Bacteremia: Pt afebrile with mild leukocytosis (no left-shift). GPCs
   in chains growing from [**5-19**] blood cx now proven to be enterococcus (no
   sensitivities). PICC tip cx no growth (final). No other localizing s/s
   infection aside from sacral/perineal skin break down. No murmur or
   stigmata of endocarditis appreciated.
   - daptomycin given after HD, day 1 = [**5-21**]
 consider change to
   ampicillin given enterococcus is sensitive
   - F/U blood cx
   - Depending on micro data, ordered for TTE (not done yesterday)
   # R AV fistula bleeding: Pt now presenting with second episode of
   bleeding from AV fistula in last 2 HD sessions. He was seen by
   transplant surgery in ED and they felt bleeding had resolved however
   will likely need some intervention or plan since pt cannot be referred
   to ED and admitted each HD session.  Fistulogram read as normal.  Hct
   dropped to 37.8 from recent baseline in 40s (could also relate to fluid
   shifts from HD schedule).
   - continue to monitor
   - repeat HCT, am coags
   - type and screen
   - appreciate transplant surgery recommendations
   # Tachycardia: C/w baseline HR in 110s.  Difficult to assess if afib
   given poor baseline; not noted in PMH.
   - Monitor on tele, repeat EKG
   # Brief runs of VT: Noted on telemetry.
   - Replete Mg PRN (monitor K but would not replete given ESRD unless
   low)
   # Leukocytosis: Likely related to bacteremia. Has trended down from
   yesterday, possibly since PICC line removed. Pt does have chronic
   diarrhea but C. diff is on differential.
   - trend
   - C. diff negative X1
   - cont Abx as above
   # Sacral decubitus ulcer: Currently does not appear infected.
   - lidocaine jelly
   - follow wound consult recommendations
   # Oral candidiasis: Concerning for immunocompromised state given HIV
   risk factors but has reportedly refused testing in past
   - nystatin swish and swallow
   # ESRD: On HD T,TH, Sat.
   - Continue nephrocaps.
   - f/u renal recs
   # Cryptogenic cirrhosis: Stable. Continue rifaximin.
   # Thrombocytopenia: Elevated from baseline
   .
   # Chronic diarrhea: Pt has chronic diarrhea but given concern for C
   diff will hold loperamide until ruled out C diff again, continue
   cholesytramine
   - c. diff negative X1
   - Restart loperamide given negative c diff
   .
   # FEN: No IVF, low Na, K diet
   # Prophylaxis:
   -DVT ppx with pneumoboots given bleed
   -Bowel regimen held given diarrhea
   -Pain management with tylenol
   # Access: PIV
   # Code: Confirmed full
   # Communication: Patient
   # Emergency Contact:  HCP [**Name (NI) **] [**Name (NI) 14607**] (partner) [**Telephone/Fax (1) 14608**]
   # Disposition: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Dialysis Catheter - [**2106-5-21**] 05:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-23 11:58:00 Physician Attending Progress Note
Chief Complaint: Fistula bleed, ESRD, Enterococcus bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Currently getting wound care
   24 Hour Events:
 EKG - At [**2106-5-22**] 04:15 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-5-23**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 112 (97 - 120) bpm
   BP: 104/70(78) {53/32(37) - 104/70(78)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  1,800 mL
                                                                    240 mL
   PO:
                                                                  1,600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    725 mL
   Urine:
   NG:
   Stool:
   725 mL
   Drains:
   Balance:
                                                                  1,800 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, 2 sacral ulcers, in stage 3 and other stage 2; L
   ischial stage 2 ulcer
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   81 K/uL
   126 mg/dL
   3.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   102 mEq/L
   142 mEq/L
   37.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
                             [**2106-5-22**]  07:11 PM
                             [**2106-5-23**]  01:25 AM
   WBC
   13.0
   11.3
   Hct
   43.6
   37.8
   Plt
   105
   81
   Cr
   4.7
   3.1
   3.4
   Glucose
   131
   98
   126
   Other labs: PT / PTT / INR:21.9/38.6/2.0, Lactic Acid:4.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   74 yo man with ESRD, cryptogenic cirrhosis, in ICU with bleeding
   fistula, hypotensio, Enterococcal bactereia.  Doing well,
   hemodynamically at baseline
   Septic Shock/Enterococcus bacteremia:  Treating with daptomycin with
   HD.
   Sinus tach: HR at baseline
   bleeding fistula:  Stable, no evidence of further bleeding.  Hct down
   today but could be reflective of volume shifts.  Will cont to trend
   ESRD: Tolerated HD well yesterday.  HD schedule per renal.
   Decub ulcers: Cont wound care
   Appears to be back near baseline - will work on transition to floor
   versus D/C to [**Last Name (un) 1268**] house in next 1-2 days.
   Remainder of issue per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Dialysis Catheter - [**2106-5-21**] 05:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Physical Exam: Skin exam as above.
   Gen: NAD. Alert and conversive
   CV: RRR. No m.  +bruit over R arm fistula
   Res: Scattered rhochi bilaterally
   Abd: Soft. NT
   Ext: no LE edema
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2106-5-23**] 14:54 ------

2106-05-24 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2106-5-23**] 02:00 PM
 DIALYSIS CATHETER - STOP [**2106-5-23**] 07:03 PM
   - [**2106-5-19**] culture now growing E. Fecalis AND E. faecium, the latter of
   which is VRE; therefore will continue on dapto for now
   - Rejected for transfer by floor team last night over ? nursing
   concern; will d/c to rehab tmrw. Has bed hold at [**First Name4 (NamePattern1) 995**] [**Last Name (NamePattern1) **]
   - Per ID, check baseline CK with Dapto. Rec 2 week course w/ HD,
   question contaminant given 2 species enterococcus growing from only 1
   set.
   - Started octreotide for diarrhea.
   - 15 sec run of VT overnight; broke with waking patient - no symptoms
   - Difficulty drawing AM labs; will wait for morning phlebotomy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2106-5-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.2
C (95.4
   HR: 88 (85 - 250) bpm
   BP: 80/47(54) {65/42(48) - 114/73(78)} mmHg
   RR: 8 (8 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    970 mL
                                                                    180 mL
   PO:
                                                                    920 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    725 mL
   Drains:
   Balance:
                                                                    245 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   General: Cachectic male, tired but alert, oriented x 3, no acute
   distress
   HEENT: Sclera slightly icteric, MM dry, + oral thrush, oropharynx
   clear
   Neck: Supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally with faint crackles at bases,
   no wheezes or rhonchi
   CV: Irregular rhythm with mild tachycardia, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, distended with +ascites. Nontender. Bowel sounds
   present, no rebound tenderness or guarding.
   Ext: Cool to touch. Dopplerable pulses, 3+ edema to upper thigh, no
   clubbing, cyanosis. RUE AV fistula with palpable thrill; no bleeding
   and bandaid C/D/I.
   Neuro: Oriented x 3.
   Skin: Dry, cracked skin throughout. No stigmata of endocarditis
   appreciated.
   Labs / Radiology
   79 K/uL
   11.3 g/dL
   105 mg/dL
   3.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   140 mEq/L
   37.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
                             [**2106-5-22**]  07:11 PM
                             [**2106-5-23**]  01:25 AM
                             [**2106-5-23**]  04:09 PM
   WBC
   13.0
   11.3
   11.2
   Hct
   43.6
   37.8
   37.2
   Plt
   105
   81
   79
   Cr
   4.7
   3.1
   3.4
   3.8
   Glucose
   131
   98
   126
   105
   ++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Micro: [**5-19**] blood cultures: E. faecalis (V sensitive) and E. faecium
   (VRE)  but repeat cultures negative
   Ordered for TTE but not yet done
   Assessment and Plan
   74M with cryptogenic cirrhosis and ESRD on HD admitted with bleeding
   fistula and bacteremia with hypotension on floor.
   .
   # Hypotension: Pt has chronically low BP with SBP 60s-70s UEs and
   100s-120s LEs but BP on arrival to floor 60/D in LUE and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/L. In
   retrospect, this may have been a false measurement as pt mentating at
   baseline throughout and LE BPs here now measured back at baseline.
   Unlikely that midodrine would effect a change so quickly. Pt is s/p 1L
   IV fluids so could have had a component of hypovolemia from increased
   fluid removal at HD and/or blood loss from fistula. Differential
   however does include sepsis from bacteremia given known positive blood
   cx, now speciated to sensitive entertococcus. AM cortisol previously
   checked [**5-/2106**] and was WNL at 22.
   - closely follow BPs in UEs and [**Name Prefix (Prefixes) **]
   - [**Last Name (Prefixes) **] need small IV boluses to maintain goal SBP >70 in UE, >90 in LE
   - no pressors needed
   - cont midodrine for now
   - trend lactate to assess end organ perfusion: currently elevated to
   4.7 but in setting of Cr elevation; will repeat again this morning
   .
   # Bacteremia: Pt afebrile with mild leukocytosis (no left-shift). GPCs
   in chains growing from [**5-19**] blood cx now proven to be enterococcus
   (VRE). PICC tip cx no growth (final). No other localizing s/s infection
   aside from sacral/perineal skin break down. No murmur or stigmata of
   endocarditis appreciated.
   - daptomycin q48h given after HD, day 1 = [**5-21**], for two week course
   with hemodialysis (change dialysis schedule so that it is q48h, i.e. T
   Th Sa M W F to complete 2 week course daptomycin, thus preventing need
   for PICC); will order PICC in meantime while determining possibility of
   changing dialysis schedule as described
   - aggressive wound care
   - f/u ID recs
   - F/U blood cx
   - consider TTE
    .
   # Non-Sustained Ventricular Tachycardia.  Patient with 15 second run of
   VT that self-terminated overnight. He has no history of structural
   heart disease, most recent echo ([**5-7**]) with preserved biventricular
   function, mild LVH.
   - correct K to 4 and Mg to 2
   - EKG
   - consider stress testing for risk stratification
   .
   # Oxygen requirement:  Not on oxygen at baseline. No clear etiology;
   will monitor for now. Pt without cough.
   - Obtain CXR
   - wean as tolerated
   .
   # R AV fistula bleeding: Pt now presenting with second episode of
   bleeding from AV fistula in last 2 HD sessions. He was seen by
   transplant surgery in ED and they felt bleeding had resolved however
   will likely need some intervention or plan since pt cannot be referred
   to ED and admitted each HD session.  Fistulogram read as normal.  Hct
   dropped to 37.8 from recent baseline in 40s (could also relate to fluid
   shifts from HD schedule).
   - continue to monitor
   - repeat HCT, am coags
   - type and screen
   - appreciate transplant surgery recommendations
   .
   # Brief runs of VT: Noted on telemetry. Broke spontaneously when pt
   awoke. Pt without prior evidence of structural heart disease.
   - Replete Mg PRN (monitor K but would not replete given ESRD unless
   low)
   - Monitor on tele
   .
   # Leukocytosis: Likely related to bacteremia. Has trended down,
   possibly related to PICC line removal. Pt does have chronic diarrhea
   but C. diff is on differential.
   - trend
   - C. diff negative X1
   - cont Abx as above
   .
   # Sacral decubitus ulcer: Currently does not appear infected.
   - lidocaine jelly
   - follow wound consult recommendations
   .
   # Oral candidiasis: Concerning for immunocompromised state given HIV
   risk factors but has reportedly refused testing in past
   - nystatin swish and swallow
   .
   # ESRD: On HD T,TH, Sat.
   - Continue nephrocaps.
   - f/u renal recs
   .
   # Cryptogenic cirrhosis: Stable. Continue rifaximin.
   .
   # Thrombocytopenia: Elevated from baseline
   .
   # Chronic diarrhea: Pt has chronic diarrhea thought to be due to ileal
   resection for possible Crohn
s disease in past but given concern for C
   diff will hold loperamide until ruled out C diff again, continue
   cholesytramine
   - c. diff negative X1
   - continue octreotide
   - Continue loperamide given negative c diff
   .
   # FEN: No IVF, low Na, K diet
   # Prophylaxis:
   -DVT ppx with pneumoboots given bleed
   -Bowel regimen held given diarrhea
   -Pain management with tylenol
   # Access: PIV
   # Code: Confirmed full
   # Communication: Patient
   # Emergency Contact:  HCP [**Name (NI) **] [**Name (NI) 14607**] (partner) [**Telephone/Fax (1) 14608**]
   # Disposition:  Plan to call-out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-05-24 13:06:00 Physician Attending Progress Note
Chief Complaint: Fistula bleeding, Enterococcal bactermia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   24 Hour Events:
   HD yesterday
   15 sec run of NSVT overnight
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2106-5-21**] 02:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2106-5-23**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-5-24**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 92 (85 - 250) bpm
   BP: 98/64(71) {66/42(48) - 105/73(73)} mmHg
   RR: 10 (8 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    970 mL
                                                                    780 mL
   PO:
                                                                    920 mL
                                                                    780 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    725 mL
   Drains:
   Balance:
                                                                    245 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   79 K/uL
   177 mg/dL
   4.5 mg/dL
   34 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   37.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2106-5-22**]  02:47 AM
                             [**2106-5-22**]  07:11 PM
                             [**2106-5-23**]  01:25 AM
                             [**2106-5-23**]  04:09 PM
                             [**2106-5-24**]  11:30 AM
   WBC
   13.0
   11.3
   11.2
   10.1
   Hct
   43.6
   37.8
   37.2
   37.8
   Plt
   105
   81
   79
   79
   Cr
   4.7
   3.1
   3.4
   3.8
   4.5
   Glucose
   131
   98
   126
   105
   177
   Other labs: PT / PTT / INR:21.9/38.6/2.0, CK / CKMB / Troponin-T:33//,
   Lactic Acid:2.9 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   74 yo man with ESRD, cryptogenic cirrhosis, in ICU with bleeding
   fistula, hypotensio, Enterococcal bactereia.  Doing well,
   hemodynamically at baseline
   Septic Shock/Enterococcus bacteremia:  Treating with daptomycin with HD
   q48 hrs- did not get dose yesterday.  Redose now
   NSVT: Will keep in house today on telemetry.  Electrolytes normal
   bleeding fistula:  Stable, no evidence of further bleeding.  Hct stable
   ESRD: Normal HD tomorrow
   Decub ulcers: Cont wound ca
   Hypoxemia: Does have 2L O2 reqirement.  Check CXR
   Remainder of issue per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-21**] 05:37 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: